US04017512
50 ml of a methanolic solution of 12.3 g (0.22 mole) of potassium hydroxide was added to 50 ml of an ice-cooled methanolic solution of 23.1 g (0.22 mole) of N-carboethoxyhydroxylamine to prepare a solution containing a potassium salt of N-carboethoxyhydroxylamine, and 50 ml of a methanolic solution of 33.7 g (0.2 mole) of 2,4,6-trimethylbenzyl chloride was added to the resulting solution at room temperature. The resulting mixture was heated under refluxing for 1 hour, and the solvent was distilled off. 150 ml of diethyl ether and 50 ml of water were then added to the residue and the organic layer was separated, dried over anhydrous sodium sulfate and concentrated under a reduced pressure. The residue thus obtained was distilled under a reduced pressure to obtain 25.5 g (53.8% yield) of substantially pure N-carboethoxy-O-(2,4,6-trimethylbenzyl)hydroxylamine having a boiling point of 148°-153° C/0.9 mmHg.

reactant | potassium hydroxide | 0.22 mole, 12.3 g | [OH-].[K+]
reactant | N-carboethoxyhydroxylamine | 0.22 mole, 23.1 g | C(=O)(OCC)NO | C3H7NO3
reactant | potassium | [K] | K
reactant | 2,4,6-trimethylbenzyl chloride | 0.2 mole, 33.7 g | CC1=C(CCl)C(=CC(=C1)C)C | C10H13Cl
product | N-carboethoxy-O-(2,4,6-trimethylbenzyl)hydroxylamine | 53.8% yield | C(=O)(OCC)NOCC1=C(C=C(C=C1C)C)C | C13H19NO3
